US08664220B2
Step 7: {1-[4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropyl}-acetic acid ethyl ester
Prepared according to the procedure described in Example 1, Step 9, using [1-(4-bromo-phenyl)-cyclopropyl]-acetic acid ethyl ester and bis(pinacolato)diboron.

reactant | [1-(4-bromo-phenyl)-cyclopropyl]-acetic acid ethyl ester | C(C)OC(CC1(CC1)C1=CC=C(C=C1)Br)=O | C13H15BrO2
reactant | bis(pinacolato)diboron | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
product | {1-[4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropyl}-acetic acid ethyl ester | C(C)OC(CC1(CC1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C19H27BO4
